US05965555
D1) 1-(5-Hydroxy-5-methyl-6-heptynyl)-3-methyl-7-propylxanthine
A solution of 153.2 g (0.5 mol) of 3-methyl-1-(5-oxohexyl)-7-propylxanthine in 750 ml of dioxane was added dropwise to a suspension of 75.5 g (0.82 mol) of lithium acetylide as ethylenediamine complex in 500 ml of dioxane with exclusion of moisture and stirring at room temperature. The slightly exothermic reaction which started during this was completed by stirring and heating at 70° C. for 6 hours. Subsequently, at room temperature, water was added, the organic solvent was distilled off as far as possible under reduced pressure, the aqueous phase was exhaustively extracted with chloroform, the extract was dried over sodium sulfate and then concentrated under reduced pressure, and the residue was purified by filtration through a silica gel column in chloroform as eluent, resulting in 150.4 g (91% of theory) of oily product which gradually solidified and was recrystallizable from ethyl acetate with the addition of petroleum ether at the boiling point.

reactant | 3-methyl-1-(5-oxohexyl)-7-propylxanthine | 0.5 mol, 153.2 g | CN1C(N(C(C=2N(C=NC12)CCC)=O)CCCCC(C)=O)=O | C15H22N4O3
reactant | lithium acetylide | 0.82 mol, 75.5 g | [C-]#[C-].[Li+].[Li+]
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 750 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
product | 1-(5-Hydroxy-5-methyl-6-heptynyl)-3-methyl-7-propylxanthine | OC(CCCCN1C(=O)N(C=2N=CN(C2C1=O)CCC)C)(C#C)C | C17H24N4O3
